US06586625B1
Example 2 of U.S. Pat. No. 5,789,634 describes a synthesis of 2-ethyl-7-chloroindene from a 2-halobenzyl halide intermediate. To provide the intermediate, lithium diisopropylamide in heptane/THF/ethylbenzene was added to a sodium butanoate/THF slurry. 2-chlorobenzyl chloride was added to the slurry after it had been stirred at ambient temperature for 24 hours. The reaction was quenched by water addition, and the resultant aqueous layer was separated and neutralized. 2-(2-chlorobenzyl)butanoic acid was concentrated in the organic layer. Synthesis of 2-ethyl-7-chloroindene from the 2-(2-chlorobenzyl)butanoic acid provided a 33% overall yield of 2-ethyl-7-chloroindene.

reactant | sodium butanoate THF | C(CCC)(=O)[O-].[Na+].C1CCOC1
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
product | 2-ethyl-7-chloroindene | C(C)C=1CC2=C(C=CC=C2C1)Cl | C11H11Cl
